US08207178B2
Step B: 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile
A mixture of 4-(4-bromo-2,6-dimethylphenylthio)-2-chloro-6-methyl-5-nitropyrimidine (59 mmol), 4-aminobenzonitrile (65 mmol) and pyridine (59 mmol) in THF (300 ml) is heated to 80° C. for 10 hours. The reaction mixture is dissolved in methanol, washed with brine and extracted with ethyl acetate. The organic layer is washed twice with brine, dried over MgSO4 and concentrated to dryness. The solid is washed with a mixture of hexane:ethyl acetate (80:20) before filtration. After filtration, the solid is washed again with methanol. The filtrate may be concentrated and additional rounds of precipitation performed following the same procedure, until all product is recovered. The combined solids are recrystallized from acetone.

reactant | 4-(4-bromo-2,6-dimethylphenylthio)-2-chloro-6-methyl-5-nitropyrimidine | 59 mmol | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])C)Cl)C | C13H11BrClN3O2S
reactant | 4-aminobenzonitrile | 65 mmol | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 59 mmol | N1=CC=CC=C1 | C5H5N
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])C)NC1=CC=C(C#N)C=C1)C | C20H16BrN5O2S
